US04596872
4-Bromo-1-(4-chloro-3-nitrophenyl)butan-1-one
20 g (88.6 mmol) of 4-chloro-3-nitrophenyl cyclopropyl ketone is added to a solution of 65 m of 32% HBr/acetic acid in 300 ml acetic acid and heated to 80° C. for 5 hr. The reaction mixture is cooled to room temperature and poured nto 1 L of 10% potassium carbonate solution, dried over MgSO4 filtered and treated with charcoal. The solvent is removed in vacuo, and the residue is crystallized from ether to provide the title compound.

reactant | 4-chloro-3-nitrophenyl cyclopropyl ketone | 88.6 mmol, 20 g | C1(CC1)C(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C10H8ClNO3
reactant | HBr acetic acid | Br.C(C)(=O)O
reactant | potassium carbonate | 1 L | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-1-(4-chloro-3-nitrophenyl)butan-1-one | BrCCCC(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C10H9BrClNO3
